US05849743
b) 2-Amino-4-chloro-N-cyclohexylaniline
41.6 g (0.16 mol) of 4-chloro-N-cyclohexyl-2-nitroaniline were dissolved in 400 ml of ethanol, 4.2 g of Raney nickel were added, and the mixture was hydrogenated at 25° C. under 1 bar. The mixture was then filtered and the filtrate was concentrated under reduced pressure. 37.3 g (100%) of the product were obtained.

reactant | 4-chloro-N-cyclohexyl-2-nitroaniline | 0.16 mol, 41.6 g | ClC1=CC(=C(NC2CCCCC2)C=C1)[N+](=O)[O-] | C12H15ClN2O2
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | Raney nickel | 4.2 g | [Ni] | Ni
product | 2-Amino-4-chloro-N-cyclohexylaniline | 37.3 g, 100% | NC1=C(NC2CCCCC2)C=CC(=C1)Cl | C12H17ClN2
